US08252935B2
To a solution of a mixture of 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester and methyl ester (68b) (57 mg, 0.13 mmol) in N,N-dimethylformamide (1.0 mL) was added Cs2CO3(85 mg, 0.26 mmol) and 1-iodo-3-methyl-butane (0.025 mL, 0.19 mmol). The mixture was stirred for 2 h at room temperature. The reaction was diluted with EtOAC (10 mL) and washed with saturated aqueous NaHCO3 solution, brine and water. The organic fraction was dried (MgSO4) and concentrated in vacuo. The crude mixture was purified by ISCO column chromatography to obtain 4-methyl-2-{5-[1-(3-methyl-butyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester and methyl ester. Calcd for C30H40F3NO2 (M+H) 504.64, Found 504.4 (methyl ester) and Calcd for C31H42F3NO2 (M+H) 518.67, Found 518.7 (ethyl ester).

reactant | 4-methyl-2-(5-piperidin-4-yl-4′-trifluoromethyl-biphenyl-3-yl)-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCNCC1)C1=CC=C(C=C1)C(F)(F)F)=O | C26H32F3NO2
reactant | Cs2CO3 | 0.26 mmol, 85 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-iodo-3-methyl-butane | 0.19 mmol, 0.025 mL | ICCC(C)C | C5H11I
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 4-methyl-2-{5-[1-(3-methyl-butyl)-piperidin-4-yl]-4′-trifluoromethyl-biphenyl-3-yl}-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CCN(CC1)CCC(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C31H42F3NO2
